US04533670
1-(1H-imidazol-1-yl)-2-(9H-fluoren-2-yl)-2-propanol
To a slurry of 743 mg. of a 60% sodium hydride dispersion in oil in 50 ml. of dry dimethylformamide were added, in portions, 2.53 g. of imidazole. After hydrogen evolution had ceased, 3.2 g. of 1-chloro-2-(9H-fluoren-2-yl)-2-propanol in 50 ml. of dry dimethylformamide were added. The mixture was heated to 60° C. for one hour and then stirred overnight at room temperature. After heating an additional 2.5 hours at 85° C., the reaction mixture was poured into 700 ml. of water. The aqueous solution was extracted three times with ethyl acetate. The combined organic extracts were washed first with water followed by a saturated sodium chloride solution wash, dried over sodium sulfate, and evaporated to dryness. The residue was purified by chromatography over silica gel followed by crystallization from tetrahydrofuran/hexanes to provide 1.27 g. of the desired title product, m.p. 183°-184° C.

reactant | sodium hydride | [H-].[Na+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | hydrogen | [H][H] | H2
reactant | 1-chloro-2-(9H-fluoren-2-yl)-2-propanol | ClCC(C)(O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C16H15ClO
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(1H-imidazol-1-yl)-2-(9H-fluoren-2-yl)-2-propanol | N1(C=NC=C1)CC(C)(O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C19H18N2O
